US08466186B2
(h) 4-Chloro-3-[5-chloro-1-methyl-6-(3-(trifluoromethyl)piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino]benzylamine
4 M HCl in dioxane (20 mL) was added to tert-butyl N-{4-chloro-3-[5-chloro-1-methyl-6-(3-(trifluoromethyl)piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino]benzyl}-carbamate (700 mg, 1.2 mmol) in dioxane (20 mL). The reaction mixture was stirred at rt for 2 h then diluted with water and aq. K2CO3-solution and stirred for 1 h at rt. The mixture was concentrated, filtered and the filtercake was washed with water and dried to give the sub-title compound.

reactant | HCl | 4 M | Cl | ClH
reactant | tert-butyl N-{4-chloro-3-[5-chloro-1-methyl-6-(3-(trifluoromethyl)piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino]benzyl}-carbamate | 1.2 mmol, 700 mg | ClC1=C(C=C(CNC(OC(C)(C)C)=O)C=C1)NC1=NC2=C(N1C)C=C(C(=C2)Cl)N2CC(CCC2)C(F)(F)F | C26H30Cl2F3N5O2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
product | 4-Chloro-3-[5-chloro-1-methyl-6-(3-(trifluoromethyl)piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino]benzylamine | ClC1=C(C=C(CN)C=C1)NC1=NC2=C(N1C)C=C(C(=C2)Cl)N2CC(CCC2)C(F)(F)F | C21H22Cl2F3N5
